US04122274
7-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
In a manner similar to that described for the preparation of 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one in Example 2, the title compound was prepared from ethyl 2-cyano-3-(5-methyl-2-pyridylamino)acrylate. The product (42.8% yield) had m.p. 321°-322° (decomp) after recrystallization from glacial acetic acid.

reactant | 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
reactant | ethyl 2-cyano-3-(5-methyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)C | C12H13N3O2
product | 7-Methyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | CC=1C=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C1 | C10H8N6O
